US04649142
To a solution of 3,4-dihydro-6-(3,4-dihydroxyphenyl)--ethyl-3-methyl-4-(2,4,6-trimethylphenylimino)-2(1H)pyrimidinone (1.0 g) in dimethylformamide (30 ml) were added spray-dried potassium fluoride (0.77 g) and 1,2-dibromoethane (0.25 ml). The mixture was stirred at 110° C. for 2.5 hours. The reaction mixture was poured into water and extracted with diethyl ether. The organic layer was washed with water, dried over magnesium sulfate and evaporated. The residue was subjected to column chromatography on silica gel and eluted with chloroform. The fractions containing the desired compound were combined and concentrated under reduced pressure to give 3,4-dihydro-6-(3,4-ethylenedioxyphenyl)-1-ethyl-3-methyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone (0.3 g).

reactant | 3,4-dihydro-6-(3,4-dihydroxyphenyl)--ethyl-3-methyl-4-(2,4,6-trimethylphenylimino)-2(1H)pyrimidinone | 1.0 g | OC=1C=C(C=CC1O)C1=CC(N(C(N1CC)=O)C)=NC1=C(C=C(C=C1C)C)C | C22H25N3O3
reactant | potassium fluoride | 0.77 g | [F-].[K+]
reactant | 1,2-dibromoethane | 0.25 ml | BrCCBr | C2H4Br2
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3,4-dihydro-6-(3,4-ethylenedioxyphenyl)-1-ethyl-3-methyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone | 0.3 g | C1OC=2C=C(C=CC2OC1)C1=CC(N(C(N1CC)=O)C)=NC1=C(C=C(C=C1C)C)C | C24H27N3O3
